US08124610B2
4-bromo-2,5-difluoro-N-(thiazol-2-yl)benzenesulfonamide
4-BROMO-2,5-DIFLUOROBENZENESULFONYL CHLORIDE (10.0 g, 0.0345 mol) and 2-AMINOTHIAZOLE (3.80 g, 0.0379 mol) were mixed in Pyridine (40 mL, 0.5 mol). The reaction was allowed to stir at room temperature for 9 days. The reaction was concentrated in vacuo to a total volume of approximately 40 mL. The residue was triturated with 1N HCl (aq). Acetonitrile was added until the precipitate became free-flowing. The solid was collected by filtration and rinsed with acetonitrile then ethyl ether. The solid was dissolved in boiling acetonitrile and treated with activated carbon then filtered through a celite pad. The filtrate was reduced to ⅓ its original volume by distillation. The mixture was cooled to room temperature. The crystals were collected by filtration and rinsed with ethyl ether. Vacuum drying gave 2.66 g of off-white solid.

reactant | 4-BROMO-2,5-DIFLUOROBENZENESULFONYL CHLORIDE | 0.0345 mol, 10.0 g | BrC1=CC(=C(C=C1F)S(=O)(=O)Cl)F | C6H2BrClF2O2S
reactant | 2-AMINOTHIAZOLE | 0.0379 mol, 3.80 g | NC=1SC=CN1 | C3H4N2S
reactant | Pyridine | 0.5 mol, 40 mL | N1=CC=CC=C1 | C5H5N
product | 4-bromo-2,5-difluoro-N-(thiazol-2-yl)benzenesulfonamide | 2.66 g | BrC1=CC(=C(C=C1F)S(=O)(=O)NC=1SC=CN1)F | C9H5BrF2N2O2S2
